US07635715B2
Step E: Preparation of Ethyl 6,7-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
Concentrated H2SO4 (52.5 mL, 621 mmol) was added dropwise via an addition funnel to diethyl 2-(2-(3,4-dichlorophenyl)-2-methylpropanoyl)malonate (11.66 g, 31.1 mmol) cooled to 0° C. The reaction mixture was allowed to slowly warm to ambient temperature and then poured into a beaker of ice, diluted with 200 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 50 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (9.61 g) as a white amorphous solid. MS (m/z)=329 (M+H)+.

reactant | H2SO4 | 621 mmol, 52.5 mL | OS(=O)(=O)O | H2O4S
reactant | diethyl 2-(2-(3,4-dichlorophenyl)-2-methylpropanoyl)malonate | 31.1 mmol, 11.66 g | ClC=1C=C(C=CC1Cl)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H20Cl2O5
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Ethyl 6,7-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 9.61 g | ClC=1C=C2C(=C(C(C(C2=CC1Cl)(C)C)=O)C(=O)OCC)O | C15H14Cl2O4
